US05354772
4-Chloroacetyl-1-fluorobenzene
164 ml. (235.1 g., 2.04 moles) of chloroacetyl chloride is added over a 50 min. period to a mixture of 400 ml. (410 g., 4.22 moles) of fluorobenzene and 300 g. (2.25 moles) of anhydrous aluminum chloride stirred at 75° C. under nitrogen. The reaction mixture is stirred at 80° C. under nitrogen for 1 hour, cooled to 50° C., 500 ml. of fluorobenzene is added, and the reaction mixture is cooled to 0° C. and gradually (over a 30 min. period) siphoned into 1 l. of 6N. hydrochloric acid stirred at 0° C. (The temperature of the aqueous acid is maintained at or below 25° C. throughout the addition.) The quenched, acidified reaction mixture is stirred for 15 min., and the aqueous phase is separated and extracted with 350 ml. of fluorobenzene. The two organic phases are combined and washed twice with 500 ml. portions of 3N. hydrochloric acid and once with 500 ml. of water. The fluorobenzene is distilled at 30 mm. Hg. and 60° C. and, upon cooling, the obtained oily residue solidifies. The crude solid product need not be purified.

reactant | chloroacetyl chloride | 2.04 moles, 235.1 g | ClCC(=O)Cl | C2H2Cl2O
reactant | fluorobenzene | 4.22 moles, 410 g | FC1=CC=CC=C1 | C6H5F
reactant | aluminum chloride | 2.25 moles | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | Cl | ClH
product | 4-Chloroacetyl-1-fluorobenzene | ClCC(=O)C1=CC=C(C=C1)F | C8H6ClFO
